US08138181B2
Step E: 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-8-(piperidin-4-yloxy)quinoline:
Trifluoroacetic acid 0.0862 ml, 1.12 mmol) was added to a solution of tert-butyl 4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate (0.029 g, 0.0559 mmol) in dichloromethane (0.50 mL). After stirring overnight at ambient temperature, the reaction mixture was concentrated under reduced pressure and partitioned between dichloromethane and saturated NaHCO3. The organic layer was washed with saturated NaHCO3 and brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified via flash column chromatography (40:1 dichloromethane/MeOH followed by 5:1 dichloromethane/MeOH followed by 2:1 dichloromethane/MeOH) provided 10.0 mg of the desired compound. MS APCI (+) m/z 419.2 (M+1) detected.

reactant | Trifluoroacetic acid | 1.12 mmol, 0.0862 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)piperidine-1-carboxylate | 0.0559 mmol, 0.029 g | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)OC2CCN(CC2)C(=O)OC(C)(C)C | C29H34N4O5
solvent | dichloromethane | 0.50 mL | ClCCl | CH2Cl2
product | 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-8-(piperidin-4-yloxy)quinoline | 10.0 mg | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)OC2CCNCC2 | C24H26N4O3
